Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
cough, fever
 
Major Surgical or Invasive Procedure:
___ TEE
___ ___ line placement
 
History of Present Illness:
Mr. ___ is a ___ with h/o HIV (CD4 162) and CVA presenting 
with cough and fever.  

Pt states that he's been having a productive cough with 
yellowish sputum as well as fevers/chills on and off x1 week. 
Fevers up to 102 at home. He takes tylenol for fevers with 
improvements. Denies chest pain, dyspnea. Pt also reports 
diarrhea and vomiting x3 weeks that resolved about a week ago. 
He presented to OSH ED on ___/P and blood work were 
all normal per patient. No BM x5 days. Vomiting has resolved and 
he reports good po intake. Pt called EMS tonight and was taken 
to ___. AT OSH ED, VS: 100.0 89 110/70 
98% NRB. CXR (available through PACT) showed multifocal pathchy 
opacities. He received 2L NS for low BP's (baseline BP<100 per 
pt) as well as bactrim IV and ceftazidime prior to transfer to 
___. Pt requested to be transferred here since he is followed 
by Dr. ___ ___ ID. ___ has not seen Dr. ___ ___. He 
says that his HIV has been followed by his PCP even though he 
has been strongly encouraged to see Dr. ___. Last CD4 count 
per pt at ___ office about 3 weeks ago was 162 and VL zero. He 
says that he stopped his HIV medications for a while a few 
months back but resumed them as his count decreased. His CD4 
count was 1200 before stopping his medications but resuming them 
has not helped ___ increasing his counts. No recent travels. He 
cannot recall the last time, he left ___. No history of exposture 
to TB, prison, or homeless shelter. His last hospitalization was 
___ years ago at ___ for CVA. Denies night sweats.  
 
___ the ED, initial vitals were: 98.5 84 90/54 16 98% 2L Nasal 
Cannula.  
- Labs were significant for (OSH) normal chem7, albumin 3.3, 
normal LFT's, WBC 10.0, H&H 13.2/___, normal plt. CD4 count ___ 
___ was ___.  
- Imaging revealed CXR with multifocal patchy opacities.  
- The patient was given (OSH ED) ceftazidime and bactrim and 2L 
NS.  
Vitals prior to transfer were: 98.7 83 93/56 24 95% RA.  
Upon arrival to the floor, VS are: 98.0 108/61 80 20 96% on RA. 
Pt states that he feels much better. He is coughing but denies 
chest pain or dyspnea. He reports adherence with his medications 
but cannot recall the names and doses of each.  

 
Past Medical History:
chronic back pain  
HIV  
CVA  

 
Social History:
___
Family History:
He is adopted.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
===========================
Vitals: 98.0 108/61 80 20 96% on RA  
General: Alert, oriented, ___ moderate distress d/t coughing and 
belly breathing. Pt cachectic.  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: decreased breath sounds on the right with crackles up to 
scapula  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 

DISCHARGE PHYSICAL EXAM
=========================
Vitals: 98.6/98.6  107-120/63-64  60-62  18  95-98%RA
General: Alert, oriented; cachectic
HEENT: Sclera anicteric, MMM, EOMI, PERRL  
Neck: Supple, JVP not elevated
CV: Distance heart sounds; regular rate and rhythm, normal S1 + 
S2, no murmurs, rubs, gallops
Lungs: CTAB posteriorly
Abdomen: Soft, non-tender, non-distended, no rebound or guarding 
 
GU: no foley 
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: CNII-XII intact, moving all extremities with purpose
Skin: no rashes

 
Pertinent Results:
ADMISSION LABS
==================

___ 09:30PM BLOOD WBC-5.5 RBC-3.44*# Hgb-10.6*# Hct-29.4*# 
MCV-86 MCH-30.9 MCHC-36.2*# RDW-12.9 Plt ___
___ 09:30PM BLOOD Glucose-105* UreaN-8 Creat-0.5 Na-137 
K-3.0* Cl-102 HCO3-24 AnGap-14
___ 09:30PM BLOOD Albumin-2.5* Calcium-8.0* Phos-2.6* 
Mg-1.8
___ 08:02AM BLOOD ___ pO2-94 pCO2-39 pH-7.40 
calTCO2-25 Base XS-0 Comment-GREEN TOP
___ 01:20AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:20AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 01:20AM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 01:20AM URINE CastHy-2*
___ 02:35PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

PERTINENT LABS
=================
___ 06:13AM BLOOD CRP-68.7*
___ 12:00AM BLOOD Vanco-8.8*
___ 05:30AM BLOOD ALT-27 AST-34 AlkPhos-64 TotBili-0.8

MICROBIOLOGY
==============
___ 7:45 am SPUTUM     Site: INDUCED      Source: Induced. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ CLUSTERS. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Pending): 

Blood cultures from ___ - ___: No growth

REPORTS
========
___ CT Scan of Chest
IMPRESSION:  
1.  Cavitary lesion ___ the superior segment of the right lower 
lung, with connection to the bronchus intermedius. No layering 
fluid within this cavitary lesion to suggest a current abscess.  
Given CD4 count, this may represent infection such as 
Aspergillus. 
2.  Scattered foci of ground-glass opacity, peribronchiolar 
nodularity, and tiny foci of consolidation ___ the right upper 
and middle lobes, as well as the left upper lobe, which may 
represent small airways infectious/inflammatory disease such as 
___ or fungal infection and/or sequela of aspiration. 
3.  Moderate centrilobular emphysema. 
4.  Small right pleural effusion. 

DISCHARGE LABS
===============
___ 05:11AM BLOOD WBC-5.3 RBC-3.76* Hgb-11.3* Hct-32.2* 
MCV-86 MCH-30.0 MCHC-35.1* RDW-14.1 Plt ___
___ 05:11AM BLOOD Glucose-79 UreaN-8 Creat-0.8 Na-139 K-3.7 
Cl-106 HCO3-22 AnGap-15
___ 05:11AM BLOOD Calcium-8.3* Phos-2.7 Mg-2.1

 
Brief Hospital Course:
Mr. ___ is a ___ with h/o HIV (CD4 162) and CVA presenting 
with cough and fever found to have cavitary pneumonia and MSSA 
positive sputum.

# MSSA pneumonia ___ immunocompromised host: As evident on CXR 
and pt's symptoms of productive cough, fever, and chills. 
Notably not hypoxic. Given pt's history of HIV and very low CD4 
count (<200), there was concern for both common bacterial 
infection as well as oppotunistic infections including PCP, 
___, fungal. He did not report TB exposure or risk factors and 
CXR not c/f TB infection. Based on imaging findings, ___ was 
also considered (had some bilateral findings, but patient's CD4 
count not ___ the range where this is typically a concern, and 
AFB smear negative) vs. aspiration. Since pt has CD4 count < 200 
and has not been on PCP prophylaxis, he was briefly placed on 
bactrim therapy for PCP, as well as initially covered with 
vancomycin, ceftriaxone and azithromycin. Another consideration 
was malignancy and supported by weight loss and significant 
history of smoking. Repeat CXR on morning after admission showed 
cavitary lesion which was better shown on Chest CT without 
contrast. ___ conjunction with cavitary lesion ___ right mid-lung, 
this was suspicious for staph pneumonia, potentially 
post-influenza as patient provided history of viral prodrome, 
however influenza PCR was negative while inpatient. Eventually, 
sputum culture from OSH grew MSSA. He was then narrowed to 
nafcillin for MSSA pneumonia with the help of Infectious Disease 
consultation. He underwent both TTE and TEE to rule out 
endocarditis given high-grade bacteremia, and these were both 
negative. There was no evidence of peripheral stigmata or 
complications from endocarditis. Therefore, after placement of a 
PICC line, he was discharged on a course of nafcillin for 4 
weeks with plans to follow-up ___ ___ clinic.

# Diarrhea: Weeks ___ duration, per patient, with associated 
weight loss of 10 lbs over the past month. Has been intermittent 
with HAART therapy, which places him at risk for additional 
pathogens, especially with CD4 < 200. This prompted concern for 
cryptosporidiosis given dehydration, electrolyte disturbances 
(hypokalemia), and weight loss, however this test was negative. 
This could also have been antibiotic-associated vs. 
medication-associated (ritonavir and atazanavir a/w diarrhea) 
vs. HIV-assicated diarrhea. Work-up included egative C. diff, 
stool culture, O&P, cyclospora, isospora, cryptosporidium and 
Giardia. This was improving, per patient, on discharge, and he 
no longer had major electrolyte disturbances.

# Acute urinary retention: Patient stated that urinary retention 
has been an issue for him during previuos hospitalizations. Per 
record review, it appears that the patient has been on both 
tamsulosin and finasteride as an outpatient for "likely" BPH. 
While inaptient, he continued to fail voiding trials, and was 
requiring CIC, so foley was placed ___. Has a history of taking 
tamsulosin ___ the past, but this is contraindicated with 
ritonavir, so this was not restarted. He was discharged with a 
foley ___ place, but with plan for voiding trial and urology 
follow-up as outpatient.

# HIV: His most recent CD4 count was 131 on ___ at ___ 
___. HIV-1 RNA was 55 copies/mL at that time as 
well. Pt reports general adherence with medications but he does 
report stopping them for a while a few months back. Given his 
inconsistency with medications, he may need HIV genotyping due 
to risk of developing resistance. His home regimen (atazanavir, 
ritonavir, raltegravir, and emtricitabine-tenofovir) was 
continued ___, and he was told to follow-up with his 
outpatient HIV primary care physician. He was also restarted on 
PCP prophylaxis with bactrim on discharge.

# Nutrition: Patient very cachectic on exam. He reported issues 
___ the past with weight loss and reports recent 10lb 
unintentional weight loss over this month. Nutrition was 
consulted who recommended multivitamin and nutritional 
supplement TID. His weight was monitored as well. 

TRANSITIONAL ISSUES: 
# Nuntrition: could discuss PPN/TPN as outpatient when infection 
resolved versus appetite promoting agent (e.g. megace)
# Pulmonary: will need CT ___ follow-up (3 weeks from discharge) 
to re-eval cavitary area for resolution and to rule out 
malignancy
# GU: voiding trial for urinary retention as an outpatient
# CODE STATUS: full code confirmed  
# CONTACT: ___ (friend) ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atazanavir 300 mg PO DAILY 
2. Raltegravir 400 mg PO BID 
3. Naproxen 250 mg PO Q12H:PRN pain 
4. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
5. RiTONAvir 100 mg PO DAILY 
6. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1. Nafcillin 2 g IV Q4H 
RX *nafcillin ___ dextrose iso-osm 2 gram/100 mL 2 g IV every 
four hours Disp #*160 Intravenous Bag Refills:*0
2. Chest CT Scan without contrast
ICD-9:  513.0 - Lung abscess
Please fax results to: ___
Attn: Dr. ___
Phone: ___
3. Atazanavir 300 mg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Naproxen 250 mg PO Q12H:PRN pain 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
7. Raltegravir 400 mg PO BID 
8. RiTONAvir 100 mg PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Nicotine Patch 21 mg TD DAILY 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY PCP ___ 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth DAILY Disp #*30 Tablet Refills:*0
12. Outpatient Lab Work
ICD-9:  513.0 - Lung abscess

WEEKLY: CBC with differential, BUN, Cr, AST, ALT, TB, ALK PHOS

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
- Cavitary lesion ___ the superior segment of the RLL
- Staphylococcus aureus bacteremia
- Moderate/severe malnutrition

Secondary:
- HIV w/ ART noncompliance
- Right frontotemporal/basal ganglia embolic CVA from aortic 
arch thrombus with hemorrhagic transformation ___ ___
- Cholecystitis s/p cholecystectomy (___)
- Depression 
- ETOH and polysubstance abuse
- Left hip fracture (___)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted from ___ due to fevers 
and a cough over the past several weeks, and found to have a 
pneumonia caused by a bacteria caused by a bacteria called Staph 
aureus. This infection was very severe and spread to your blood. 
For this reason, you will need long term antibiotics.

You were seen by our Infectious Disease specialists, who 
recommended receiving at least 4 weeks of nafcillin. 

You need to have a follow-up CT scan of your chest to assess for 
resolution of your pneumonia. We strongly suggest that you have 
this done on the day of your follow-up appointment with Dr. 
___. (If you are absolutely unable to do this, you can have 
it done locally, but then you must bring the report and the 
images to your ___ appointment.)

___ terms of your HIV regimen, it is very important that you take 
your medications every day. We are also starting you on a new 
medication, called Bactrim, which will help prevent some 
infections for which you are at risk. Please follow-up with your 
outpatient physicians as below.

We wish you the best!
-Your ___ Team
 
Followup Instructions:
___